US08138377B2
A. Synthesis of 3-naphthalen-2-yl-prop-2-yn-1-ol
Bis(triphenylphosphine)palladium (II) chloride (0.18 g, 0.26 mmol, 0.18 mol %) was added to a stirred solution of propargyl alcohol (8.43 mL, 144.8 mmol, 1 eq.), 2-iodonapthalene (36 g, 142 mmol), triethylamine (39.6 mL, 284 mmol, 2 eq.) and copper iodide (0.09 g, 0.49 mmol, 0.3 mol %) in tetrahydrofuran (750 ml). The mixture was stirred at 35° C. for 12 h under nitrogen atmosphere. The mixture was then filtered through a bed of celite and the filtrate was washed with ethyl acetate (200 ml). The filtrate was then concentrated in vacuo. Purification by silica gel chromatography using 1:6 ethyl acetate/petrol as the eluting solvent afforded the desired compound (2.85 g, 11%) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 4.54 (2H, s, CH2), 7.45-7.49 (3H, m, ArH), 7.75-7.81 (3H, m, ArH), 7.95 (1H, s, ArH).

reactant | propargyl alcohol | 144.8 mmol, 8.43 mL, 1 eq. | C(C#C)O | C3H4O
reactant | 2-iodonapthalene | 142 mmol, 36 g | IC1=CC2=CC=CC=C2C=C1 | C10H7I
reactant | triethylamine | 284 mmol, 39.6 mL, 2 eq. | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
catalyst | Bis(triphenylphosphine)palladium (II) chloride | 0.26 mmol, 0.18 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper iodide | 0.49 mmol, 0.09 g | [Cu](I)I
product | 3-naphthalen-2-yl-prop-2-yn-1-ol | 2.85 g, 11% | C1=C(C=CC2=CC=CC=C12)C#CCO | C13H10O
